US04424359
(d) Preparation of 3-methyl-6-hydroxymethyl-2,2'-bipyridine
1.4 g (5.8 mmols) of 3-methyl-6-acetoxymethyl-2,2'-bipyridine are boiled under reflux for 30 minutes in a mixture of 20 ml of 10% sodium hydroxide solution and 15 ml of ethanol. After cooling, the mixture is acidified with hydrochloric acid and washed with twice 20 ml of ethyl acetate. The aqueous phase is rendered alkaline with potassium carbonate, and the reaction product is extracted with 40 ml of ethyl acetate. After drying over sodium sulfate and concentration in vacuo, the 3-methyl-6-hydroxymethyl-2,2'-bipyridine is crystallised from diethyl ether. Yield: 0.99 g (85% of theory); melting point 51°-53° C. UV absorption (in chloroform): λmax =281 nm (ε=9400).

reactant | 3-methyl-6-acetoxymethyl-2,2'-bipyridine | 5.8 mmols, 1.4 g | CC=1C(=NC(=CC1)COC(C)=O)C1=NC=CC=C1 | C14H14N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-methyl-6-hydroxymethyl-2,2'-bipyridine | CC=1C(=NC(=CC1)CO)C1=NC=CC=C1 | C12H12N2O
